US05652250
N-benzyl α-cyanoacetamide
To benzylamine (1.07 g, 0.01 mol) was added methyl cyanoacetate (0.99 g, 0.01 mol) and the mixture was heated for 16 h at 100° C. without condenser to allow evaporation of the methanol formed. Cooling gave a dark red solid which was triturated with ethanol, filtered and recrystallized from ethanol to give pure title compound in about 40% yield (0.70 g). mp 123°-4° C.

reactant | benzylamine | 0.01 mol, 1.07 g | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl cyanoacetate | 0.01 mol, 0.99 g | C(#N)CC(=O)OC | C4H5NO2
product | N-benzyl α-cyanoacetamide | about 40% yield | C(C1=CC=CC=C1)NC(CC#N)=O | C10H10N2O
